US20010049385A1
A 1 M solution of lithium aluminum hydride in THF (258 ml, 258 mmol) was added dropwise to a solution of the mixture of 2-(4-fluorobenzyl)benzoic acid and the starting material 2-(4-fluorobenzoyl)benzoic acid, which was isolated in step 1, in THF (200 ml). The reaction mixture was heated to reflux for 2 hours. It was cooled to 0° C. Carefully, methanol (100 ml) and water (50 ml) were added successively. A 10% aqueous solution of sodium hydrogensulphate (500 ml) and a 1 N solution of sodium chloride in water were added. The phases were separated. The aqueous phase was extracted with ethyl acetate (2×300 ml). The combined organic layers were washed with a saturated aqueous solution of sodium hydrogencarbonate (600 ml) and dried over magnesium sulphate. The solvent was removed in vacuo. 5.23 g of [2-(4-fluorobenzyl)phenyl]methanol were isolated by flash chromatography on silica (200 g), using ethyl acetate/heptane 1:1 as eluent.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-(4-fluorobenzyl)benzoic acid | FC1=CC=C(CC2=C(C(=O)O)C=CC=C2)C=C1 | C14H11FO2
reactant | THF | 200 ml | C1CCOC1 | C4H8O
reactant | THF | 258 mmol, 258 ml | C1CCOC1 | C4H8O
product | 2-(4-fluorobenzoyl)benzoic acid | FC1=CC=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=C1 | C14H9FO3
